US05552558
D. N-((2-(N,N-Diethylamino)-4-thiazolyl)methoxycarbonyl)valine Methyl Ester.
A solution of 5.11 mmol of α-isocyanato-valine methyl ester in 10 ml of dichloromethane was treated with 0.864 g (4.65 mmol) of 2-(N,N -diethylamino)-4-(hydroxymethyl)thiazole and 0.46 mmol of 4-dimethylaminopyridine. The resulting solution was stirred at ambient temperature for 16 h, after which it was diluted with 200 ml of chloroform, washed successively with 10% citric acid, aqueous NaHCO3, and saturated brine. After drying over Na2SO4, the solvent was removed in vacuo, and the residue was chromatographed on silica gel using 1-2% methanol in chloroform to provide 1.31 g (82%) of the desired compound, Rf 0.51 (4% methanol in chloroform) as an oil. 1H NMR (CDCl3)δ0.89 (d, J=7 Hz, 3H), 0.96 (d, J=7 Hz, 3H), 1.24 (t, J=7 Hz, 6H), 2.15 (m, 1H), 3.51 (q, J=7 Hz, 4H), 3.74 (s, 3H), 4.29 (dd, J=8, 4 Hz, 1H), 5.03 (s, 2H), 5.34 (br d, J=8 Hz, 1H), 6.42 (s, 1H). Mass spectrum: (M+H)+ =344.

reactant | α-isocyanato-valine methyl ester | 5.11 mmol | COC([C@@](N)(C(C)C)N=C=O)=O | C7H12N2O3
reactant | 2-(N,N -diethylamino)-4-(hydroxymethyl)thiazole | 4.65 mmol, 0.864 g | C(C)N(CC)C=1SC=C(N1)CO | C8H14N2OS
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.46 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | N-((2-(N,N-Diethylamino)-4-thiazolyl)methoxycarbonyl)valine Methyl Ester | 1.31 g, 82% | COC([C@@H](NC(=O)OCC=1N=C(SC1)N(CC)CC)C(C)C)=O | C15H25N3O4S
